US05158951
Preparation of 6-methyl-4-oxo-3-pyrrolidinocarbonyl-4H-pyrido[1,2-a]pyrimidine
A mixture containing 20.4 g (0.1 mol) of 6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid and 15.5 ml (0.11 mol) of triethylamine in 600 ml of chloroform is cooled below -10° C. by ice-salt. A solution of 10 ml (0.1 mol) of methyl chloroformate dissolved in 50 ml of chloroform is dropped to the above mixture at -10° C. during 30 to 35 minutes. After stirring for 20 minutes, 9 g (0.11 mol) of pyrrolidine dissolved in 100 ml of chloroform are dropped to the above solution at a temperature between -5° C. and -8° C. during 1 hour. The reaction mixture is stirred at the same temperature for 1 hour, then allowed to stand overnight under cooling by ice. For working up, the reaction mixture is washed 3 times with 400 ml of 5% sodium hydrogen carbonate solution each, then 3 times with 400 ml of water each. The organic phase is dried over anhydrous sodium sulfate, filtered and evaporated. After suspending the oily residue in petroleum ether, 8.3 g (32.3%) of the named compound are obtained, which forms yellow crystals after recrystallization from ethanol, m.p.: 132°-134° C.

reactant | 6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 0.1 mol, 20.4 g | CC1=CC=CC=2N1C(C(=CN2)C(=O)O)=O | C10H8N2O3
reactant | triethylamine | 0.11 mol, 15.5 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.1 mol, 10 ml | ClC(=O)OC | C2H3ClO2
reactant | pyrrolidine | 0.11 mol, 9 g | N1CCCC1 | C4H9N
solvent | chloroform | 600 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-methyl-4-oxo-3-pyrrolidinocarbonyl-4H-pyrido[1,2-a]pyrimidine | 8.3 g, 32.3% | CC1=CC=CC=2N1C(C(=CN2)C(=O)N2CCCC2)=O | C14H15N3O2
